US06777418B2
A mixture of 1.0 g (2.2 mmol) of 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6,7-cis-diacetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoic acid methyl ester. in 20 ml of methyl alcohol and 10 ml of 1 N LiOH was heated at reflux. After 1 h, cooled to room temperature, concentrated under reduced pressure, acidified with 2 N HCl, extracted with ethyl acetate, washed with brine, dried over sodium sulfate and adsorbed onto silica gel. The product was purified by flash chromatography (gradient elution: 20-60% ethyl acetate/hexane with 0.2% acetic acid) to give 560 mg of 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6,7-cis-dihydroxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid.(mp 238.3-241.5) 148.

reactant | 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6,7-cis-diacetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoic acid methyl ester | 2.2 mmol, 1.0 g | COC(C1=CC=C(C=C1)\C=C\C1=CC=2C([C@@H]([C@@H](C(C2C=C1CN1N=CC=C1)(C)C)OC(C)=O)OC(C)=O)(C)C)=O | C32H36N2O6
reactant | LiOH | 1 N, 10 ml | [Li+].[OH-]
solvent | methyl alcohol | 20 ml | CO | CH4O
product | 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6,7-cis-dihydroxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid | 560 mg | CC1(C=2C=C(C(=CC2C([C@@H]([C@@H]1O)O)(C)C)/C=C/C1=CC=C(C(=O)O)C=C1)CN1N=CC=C1)C | C27H30N2O4
